US07790747B2
To a solution of 6-cyano-2,4-dimethyl-N—((R)-3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-nicotinamide (208 mg, 0.49 mmol) in EtOH (3 ml) was added hydroxylamine HCl (190 mg, 2.73 mmol) and NaHCO3 (239 mg, 2.84 mmol) and the reaction heated to reflux overnight. The mixture was diluted with CH2Cl2 (25 ml) and water (10 ml) and saturated aqueous NaHCO3 (20 ml). The aqueous layer was extracted with CH2Cl2 (2×5 ml) and the combined organic extracts were dried (Na2SO4) and concentrated to afford 6-(N-hydroxycarbamimidoyl)-2,4-dimethyl-N—((R)-3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-nicotinamide (173 mg) as a beige foam.

reactant | 6-cyano-2,4-dimethyl-N—((R)-3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-nicotinamide | 0.49 mmol, 208 mg | C(#N)C1=NC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)NCC2=CSC=C2)C(=C1)C)C | C23H31N5OS
reactant | hydroxylamine HCl | 2.73 mmol, 190 mg | Cl.NO
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | NaHCO3 | 2.84 mmol, 239 mg | C(=O)(O)[O-].[Na+]
product | 6-(N-hydroxycarbamimidoyl)-2,4-dimethyl-N—((R)-3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-nicotinamide | 173 mg | ONC(=N)C1=NC(=C(C(=O)NCC[C@@H](C)N2CCC(CC2)NCC2=CSC=C2)C(=C1)C)C | C23H34N6O2S
